US05817671
5-(N-[4-fluorobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
A solution of 1.00 gm (4.3 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine in 85 mL pyridine was heated to 55° C. To this solution were added 0.57 mL (4.8 mMol) 4-fluorobenzoyl chloride and the resulting mixture was stirred for 30 minutes at which time an additional 0.10 mL 4-fluorobenzoyl chloride were added. After stirring for an additional 10 minutes the reaction mixture was concentrated under reduced pressure. The residue was treated with 50 mL cold 1N sodium hydroxide followed by 100 mL dichloromethane. The phases were separated and the aqueous phase was extracted 2×50 mL dichloromethane followed by 3×50 mL 3:1 chloroform:isopropanol. The organic phases were combined, washed with saturated aqueous sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to radial chromatography (4 mm silica gel plate) eluting with dichloromethane containing 10-20% methanol and 1% ammonium hydroxide. Fractions containing product were combined and concentrated under reduced pressure. The residue was crystallized from aqueous ethanol to provide 1.32 gm (87%) of the title compound as ivory crystals.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 4.3 mMol, 1.00 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 4-fluorobenzoyl chloride | 4.8 mMol, 0.57 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 4-fluorobenzoyl chloride | 0.10 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | pyridine | 85 mL | N1=CC=CC=C1 | C5H5N
product | 5-(N-[4-fluorobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.32 gm, 87% | FC1=CC=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCN(CC3)C)C=C1 | C20H21FN4O
